US07220880B2
(S,S)-3-[4-(1-Carboxy-ethoxy)-phenyl]-2-ethoxy-propionic acid ethyl ester
A solution of (S,S)-3-[4-(1-tert-butoxycarbonyl-ethoxy)-phenyl]-2-ethoxy-propionic acid ethyl ester (1.10 g, 3.00 mmol) in CH2Cl2 (5.0 ml) and TFA (4.0 ml) and water (0.2 ml) was stirred for 12 hours. The mixture was concentrated to a residue and purified by silica gel chromatography with EtOAc/Hexanes (50%) to afford the acid product (0.91 g, 98%).

reactant | (S,S)-3-[4-(1-tert-butoxycarbonyl-ethoxy)-phenyl]-2-ethoxy-propionic acid ethyl ester | 3.00 mmol, 1.10 g | C(C)OC([C@H](CC1=CC=C(C=C1)O[C@@H](C)C(=O)OC(C)(C)C)OCC)=O | C20H30O6
solvent | CH2Cl2 | 5.0 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 4.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 0.2 ml | O | H2O
product | (S,S)-3-[4-(1-Carboxy-ethoxy)-phenyl]-2-ethoxy-propionic acid ethyl ester | 0.91 g, 98% | C(C)OC([C@H](CC1=CC=C(C=C1)O[C@@H](C)C(=O)O)OCC)=O | C16H22O6
